US06201131B1
To 0.186 g (1.0 mmol) of 2-(phenylsulfonyl)ethanol, 3 ml of acetonitrile was added, followed by 0.19 g (1.1 mmol) of methanesulfonic anhydride and 0.56 ml (4.0 mmol) of triethylamine, and the mixture was stirred for 5 hours at an internal temperature of 50° C. Subsequently, 0.22 ml (1.5 mmol) of 1-iodonaphthalene, 0.11 g (0.05 mmol) of palladium acetate, and 0.067 g (0.22 mmol) of tri(o-tolyl)phosphine were added thereto, and the mixture was then refluxed for 17 hours. After cooled to room temperature, the reaction mixture was concentrated and purified by column chromatography (hexane/ethyl acetate=80/20) to obtain 0.194 g of [2-(phenylsulfonyl)ethenyl]naphthalene. Yield: 66%.

reactant | 2-(phenylsulfonyl)ethanol | 1.0 mmol, 0.186 g | C1(=CC=CC=C1)S(=O)(=O)CCO | C8H10O3S
reactant | methanesulfonic anhydride | 1.1 mmol, 0.19 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 1-iodonaphthalene | 1.5 mmol, 0.22 ml | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | tri(o-tolyl)phosphine | 0.22 mmol, 0.067 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.05 mmol, 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | [2-(phenylsulfonyl)ethenyl]naphthalene | 0.194 g, Yield: 66% | C1(=CC=CC=C1)S(=O)(=O)C=CC1=CC=CC2=CC=CC=C12 | C18H14O2S
